2183-12-21 06:50:00 Physician Resident Progress Note
Chief Complaint: DKA
   24 Hour Events:
   Patient had back pain overnight, resolved with toradol
   Nauseated, and vomited meds
   Increased respiratory requirement -99% on 4L
   Influenza negative
   This morning having more significant throat pain. Unwilling to speak
   secondary to pain.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 3 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-12-21**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.2
C (99
   HR: 104 (104 - 122) bpm
   BP: 109/59(70) {92/48(59) - 109/65(70)} mmHg
   RR: 23 (12 - 23) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,517 mL
                                                                  3,491 mL
   PO:
             TF:
   IVF:
                                                                  2,517 mL
                                                                  3,491 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                      0 mL
   Urine:
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,017 mL
                                                                  3,491 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97% 4L
   ABG: ///13/
   Physical Examination
   GENERAL:  NAD
   HEENT:  NCAT. PERRL. Oropharynx erythematous and edematous. No
   exudates. Tenderness to palpation over larynx. No LAD. No meningismus.
   CARDIAC:  RRR. No murmurs.
   LUNG:  CTAB. No wheezes or crackles. No stridor.
   ABDOMEN:  Soft, NT. ND. No masses. No rebound or guarding.
   EXT:  WWP. No LE edema.
   NEURO:  A+Ox3. Able to move all four extremities.
   DERM:  No rashes
   Labs / Radiology
   234 K/uL
   11.0 g/dL
   143 mg/dL
   0.7 mg/dL
   13 mEq/L
   3.6 mEq/L
   11 mg/dL
   112 mEq/L
   142 mEq/L
   33.0 %
   8.4 K/uL
        [image002.jpg]
                            [**2183-12-20**]  05:11 PM
                            [**2183-12-20**]  10:01 PM
                            [**2183-12-21**]  03:19 AM
   WBC
   13.3
   8.4
   Hct
   34.3
   33.0
   Plt
   234
   234
   Cr
   0.9
   0.8
   0.7
   Glucose
   [**Telephone/Fax (3) 10848**]
   Other labs: Ca++:7.2 mg/dL, Mg++:2.4 mg/dL, PO4:1.7 mg/dL
   Microbiology: Blood cultures pending
   Urine culture pending
   CXR: RML infiltrate
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPOXEMIA
 DIABETIC KETOACIDOSIS (DKA)
   23 yo F with type 1 diabetes who presents with DKA.
   # Right middle lobe infiltrate: Concerning for community acquired
   pnemonia.
   -Levofloxacin 750mg po daily (day 1 of 5)
   # Pharyngitis: Worsened overnight. Patient not taking pos secondary to
   pain. Unable to speak. No stridor. Lungs sound clear. No exudates.
   -send strep throat swab
   -consult ENT
   #  DKA: Precipitants likely pnemonia and pharyngitis. Influenza
   negative.  Glucose in ED 481, with anion gap of 35-
 17.
   -d/c tamiflu
   -f/u cultures
   -IV D5NS with 20mEq K + @ 500cc/hr until AG closes
   -insulin gtt @ 4u/hr until sugars in 200-300 range and AG closes.
   -once sugar 200-250 and AG closes, will switch to lantus 60u [**Telephone/Fax (3) **] with
   sliding scale insulin
   -chem 10 q4 hours
   -[**Last Name (un) 276**] consult this  AM
   .
   # Hypothroidism: Continue synthroid per outpatient regimen.
   .
   # Depression: Continue abilify 25mg po [**Last Name (LF) **], [**First Name3 (LF) **] outpatient regimen.
   .
   # FEN: IVFs / replete lytes prn / NPO
   # PPX:  heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE:  FULL
   # CONTACT:
   # DISPO: ICU
   .
   .
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2183-12-20**] 05:05 PM
   22 Gauge - [**2183-12-20**] 09:30 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2183-12-21 06:50:00 Physician Resident Progress Note
Chief Complaint: DKA
   24 Hour Events:
   Patient had back pain overnight, resolved iwth toradol
   Nauseated, and vomited meds
   Increased respiratory requirement -99% on 4L
   Influenza negative
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 3 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-12-21**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.2
C (99
   HR: 104 (104 - 122) bpm
   BP: 109/59(70) {92/48(59) - 109/65(70)} mmHg
   RR: 23 (12 - 23) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,517 mL
                                                                  3,491 mL
   PO:
             TF:
   IVF:
                                                                  2,517 mL
                                                                  3,491 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                      0 mL
   Urine:
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,017 mL
                                                                  3,491 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///13/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   234 K/uL
   11.0 g/dL
   143 mg/dL
   0.7 mg/dL
   13 mEq/L
   3.6 mEq/L
   11 mg/dL
   112 mEq/L
   142 mEq/L
   33.0 %
   8.4 K/uL
        [image002.jpg]
                            [**2183-12-20**]  05:11 PM
                            [**2183-12-20**]  10:01 PM
                            [**2183-12-21**]  03:19 AM
   WBC
   13.3
   8.4
   Hct
   34.3
   33.0
   Plt
   234
   234
   Cr
   0.9
   0.8
   0.7
   Glucose
   [**Telephone/Fax (3) 10848**]
   Other labs: Ca++:7.2 mg/dL, Mg++:2.4 mg/dL, PO4:1.7 mg/dL
   Microbiology: Blood cultures pending
   Urine culture pending
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPOXEMIA
 DIABETIC KETOACIDOSIS (DKA)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2183-12-20**] 05:05 PM
   22 Gauge - [**2183-12-20**] 09:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2183-12-21 06:50:00 Physician Resident Progress Note
Chief Complaint: DKA
   24 Hour Events:
   Patient had back pain overnight, resolved iwth toradol
   Nauseated, and vomited meds
   Increased respiratory requirement -99% on 4L
   Influenza negative
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 3 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-12-21**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.2
C (99
   HR: 104 (104 - 122) bpm
   BP: 109/59(70) {92/48(59) - 109/65(70)} mmHg
   RR: 23 (12 - 23) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,517 mL
                                                                  3,491 mL
   PO:
             TF:
   IVF:
                                                                  2,517 mL
                                                                  3,491 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                      0 mL
   Urine:
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,017 mL
                                                                  3,491 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///13/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   234 K/uL
   11.0 g/dL
   143 mg/dL
   0.7 mg/dL
   13 mEq/L
   3.6 mEq/L
   11 mg/dL
   112 mEq/L
   142 mEq/L
   33.0 %
   8.4 K/uL
        [image002.jpg]
                            [**2183-12-20**]  05:11 PM
                            [**2183-12-20**]  10:01 PM
                            [**2183-12-21**]  03:19 AM
   WBC
   13.3
   8.4
   Hct
   34.3
   33.0
   Plt
   234
   234
   Cr
   0.9
   0.8
   0.7
   Glucose
   [**Telephone/Fax (3) 10848**]
   Other labs: Ca++:7.2 mg/dL, Mg++:2.4 mg/dL, PO4:1.7 mg/dL
   Microbiology: Blood cultures pending
   Urine culture pending
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPOXEMIA
 DIABETIC KETOACIDOSIS (DKA)
   23 yo F with type 1 diabetes who presents with DKA.
   #  DKA: Unclear precipitant. Concerning for upper respiratory
   infection, including influenza like illness. Patient continues to have
   a sore throat. Glucose in ED 481, with anion gap of 35.
   -empiric tamiflu
   -droplet precautions
   -f/u influenza Ag
   -panculture
   -IV NS + @ 500cc/hr until AG closes
   -insulin gtt @ 4u/hr until sugars in 200-300 range.
   -once sugar 200-250, will switch to D5 1/2 NS + 20mEq K @ 200cc/hr
   -once sugar 200-250 and AG closes, will switch to lantus 60u [**Telephone/Fax (3) **] with
   sliding scale insulin
   -chem 10 q4 hours
   -[**Last Name (un) 276**] consult in the AM
   .
   # Hypothroidism: Continue synthroid per outpatient regimen.
   .
   # Depression: Continue abilify 25mg po [**Last Name (LF) **], [**First Name3 (LF) **] outpatient regimen.
   .
   # FEN: IVFs / replete lytes prn / NPO
   # PPX:  heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE:  FULL
   # CONTACT:
   # DISPO: ICU
   .
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2183-12-20**] 05:05 PM
   22 Gauge - [**2183-12-20**] 09:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2183-12-21 06:50:00 Physician Resident Progress Note
Chief Complaint: DKA
   24 Hour Events:
   Patient had back pain overnight, resolved iwth toradol
   Nauseated, and vomited meds
   Increased respiratory requirement -99% on 4L
   Influenza negative
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 3 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-12-21**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.2
C (99
   HR: 104 (104 - 122) bpm
   BP: 109/59(70) {92/48(59) - 109/65(70)} mmHg
   RR: 23 (12 - 23) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,517 mL
                                                                  3,491 mL
   PO:
             TF:
   IVF:
                                                                  2,517 mL
                                                                  3,491 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                      0 mL
   Urine:
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,017 mL
                                                                  3,491 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///13/
   Physical Examination
   GENERAL:  NAD
   HEENT:  NCAT. PERRL. Oropharynx erythematous. Unable to visualize
   posterior pharynx completely. No lesions over buccal mucosa or tongue.
   Tenderness to palpation over larynx. No LAD. No meningismus.
   CARDIAC:  RRR. No murmurs.
   LUNG:  CTAB. No wheezes or crackles.
   ABDOMEN:  Soft, NT. ND. No masses. No rebound or guarding.
   EXT:  WWP. No LE edema.
   NEURO:  A+Ox3. Able to move all four extremities.
   DERM:  No rashes
   Labs / Radiology
   234 K/uL
   11.0 g/dL
   143 mg/dL
   0.7 mg/dL
   13 mEq/L
   3.6 mEq/L
   11 mg/dL
   112 mEq/L
   142 mEq/L
   33.0 %
   8.4 K/uL
        [image002.jpg]
                            [**2183-12-20**]  05:11 PM
                            [**2183-12-20**]  10:01 PM
                            [**2183-12-21**]  03:19 AM
   WBC
   13.3
   8.4
   Hct
   34.3
   33.0
   Plt
   234
   234
   Cr
   0.9
   0.8
   0.7
   Glucose
   [**Telephone/Fax (3) 10848**]
   Other labs: Ca++:7.2 mg/dL, Mg++:2.4 mg/dL, PO4:1.7 mg/dL
   Microbiology: Blood cultures pending
   Urine culture pending
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPOXEMIA
 DIABETIC KETOACIDOSIS (DKA)
   23 yo F with type 1 diabetes who presents with DKA.
   #  DKA: Unclear precipitant. Concerning for upper respiratory
   infection, including influenza like illness.  Influenza negative.
   Patient continues to have a sore throat. Glucose in ED 481, with anion
   gap of 35-
 17.
   -d/c tamiflu
   -f/u cultures
   -IV D5NS with 20mEq K + @ 500cc/hr until AG closes
   -insulin gtt @ 4u/hr until sugars in 200-300 range and AG closes.
   -once sugar 200-250 and AG closes, will switch to lantus 60u [**Telephone/Fax (3) **] with
   sliding scale insulin
   -chem 10 q4 hours
   -[**Last Name (un) 276**] consult this  AM
   .
   # Hypothroidism: Continue synthroid per outpatient regimen.
   .
   # Depression: Continue abilify 25mg po [**Last Name (LF) **], [**First Name3 (LF) **] outpatient regimen.
   .
   # FEN: IVFs / replete lytes prn / NPO
   # PPX:  heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE:  FULL
   # CONTACT:
   # DISPO: ICU
   .
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2183-12-20**] 05:05 PM
   22 Gauge - [**2183-12-20**] 09:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2183-12-21 07:44:00 Physician Attending Progress Note
Chief Complaint: I feel like I have DKA
   I saw and examined the patient, and was physically present with Dr.
   [**Last Name (STitle) 10851**] for key portions of the services provided. I agree with the
   housestaff note, including the assessment and plan. I would emphasize
   and add the following points:
   HPI:
   24 Hour Events:
   - Admitted
   - On insulin gtt, IVF
   - Ruled out for flu
   - CXR w/RML infiltrate
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - pending
   Infusions:
   Insulin - Regular - 3 units/hour
   Other ICU medications:
   Hep sc, Insulin gtt
   Other medications:
   Synthroid, abilify
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-12-21**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.2
C (99
   HR: 105 (104 - 122) bpm
   BP: 111/74(81) {92/48(59) - 111/74(81)} mmHg
   RR: 19 (12 - 23) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,517 mL
                                                                  3,944 mL
   PO:
             TF:
   IVF:
                                                                  2,517 mL
                                                                  3,944 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                      0 mL
   Urine:
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,017 mL
                                                                  3,944 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///13/
   Physical Examination
   General Appearance: Obese F unable to speak secondary to throat pain
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, tender diffuse cervical
   adenopathy, swollen uvula
   Cardiovascular: (S1: Normal), (S2: Normal), RRR
   Respiratory / Chest: (Breath Sounds: Crackles in R mid lung field )
   Abdominal: Soft, Non-tender, Bowel sounds present, Not Distended
   Skin:  No rashes
   Neurologic: Attentive, A&Ox3, moving all extremities
   Labs / Radiology
   11.0 g/dL
   234 K/uL
   143 mg/dL
   0.7 mg/dL
   13 mEq/L
   3.6 mEq/L
   11 mg/dL
   112 mEq/L
   142 mEq/L
   33.0 %
   8.4 K/uL
        [image002.jpg]
                            [**2183-12-20**]  05:11 PM
                            [**2183-12-20**]  10:01 PM
                            [**2183-12-21**]  03:19 AM
   WBC
   13.3
   8.4
   Hct
   34.3
   33.0
   Plt
   234
   234
   Cr
   0.9
   0.8
   0.7
   Glucose
   [**Telephone/Fax (3) 10848**]
   Other labs: Ca++:7.2 mg/dL, Mg++:2.4 mg/dL, PO4:1.7 mg/dL
   CXR
 RML infiltrate, ?tracheal narrowing
   Assessment and Plan
 DIABETIC KETOACIDOSIS (DKA):  Secondary to viral illness vs PNA.
   Agree with aggressive IVF resusitation, insulin drip, serial
   electrolytes and replete as needed.
   - IVF w/glucose and potassium.  Unable to take POs reliably as below.
   - Replete lytes
   - Insulin gtt at 3.5 pending gap closure, restart home insulin
   w/overlap after gap closed
   - Notify [**Last Name (un) 276**]
 Sore Throat, cough:  Ruled out for flu by ED.  After volume repletion
   has RML infiltrate, ?PNA. ?upper airway narrowing on CXR, c/o severe
   difficulty swallowing, sore throat.
   - Supplemental O2 as needed
   - Levofloxacin for CAP
   - Strep swab
   - ENT eval
 HYPOTHYROIDISM:  Synthroid when taking po's.
   # Psych
 On home abilify, not taking secondary to throat pain
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Insulin gtt
   Lines:
   20 Gauge - [**2183-12-20**] 05:05 PM
   22 Gauge - [**2183-12-20**] 09:30 PM
   Prophylaxis:
   DVT: hep sc
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Discussed with Mother
   [**Name (NI) 66**] status: Full code
   Disposition : ICU pending gap closure
   Pt is critically ill .
   Total time spent: 30 min

2183-12-21 07:44:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 3 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-12-21**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.2
C (99
   HR: 105 (104 - 122) bpm
   BP: 111/74(81) {92/48(59) - 111/74(81)} mmHg
   RR: 19 (12 - 23) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,517 mL
                                                                  3,944 mL
   PO:
             TF:
   IVF:
                                                                  2,517 mL
                                                                  3,944 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                      0 mL
   Urine:
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,017 mL
                                                                  3,944 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///13/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   11.0 g/dL
   234 K/uL
   143 mg/dL
   0.7 mg/dL
   13 mEq/L
   3.6 mEq/L
   11 mg/dL
   112 mEq/L
   142 mEq/L
   33.0 %
   8.4 K/uL
        [image002.jpg]
                            [**2183-12-20**]  05:11 PM
                            [**2183-12-20**]  10:01 PM
                            [**2183-12-21**]  03:19 AM
   WBC
   13.3
   8.4
   Hct
   34.3
   33.0
   Plt
   234
   234
   Cr
   0.9
   0.8
   0.7
   Glucose
   [**Telephone/Fax (3) 10848**]
   Other labs: Ca++:7.2 mg/dL, Mg++:2.4 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
 DIABETIC KETOACIDOSIS (DKA):  Secondary to viral illness, flu-like
   symptoms.  Agree with aggressive IVF resusitation, insulin drip, serial
   electrolytes and replete as needed.
 FLU-LIKE ILLNESS:  Droplet precautions, nasal swab for influenza
   screen.  Started tamiflu.
 LEUKOCYTOSIS:  [**Month (only) 60**] be stress and dehydration albeit will send
   surveillance cultures and monitor clinicallly.
 HYPOTHYROIDISM:  Synthroid when taking po's.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2183-12-20**] 05:05 PM
   22 Gauge - [**2183-12-20**] 09:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU pending gap closure
   Total time spent: 30 min

2183-12-21 07:44:00 Physician Attending Progress Note
Chief Complaint: I feel like I have DKA
   HPI:
   24 Hour Events:
   - Admitted
   - On insulin gtt, IVF
   - Ruled out for flu
   - CXR w/RML infiltrate
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - pending
   Infusions:
   Insulin - Regular - 3 units/hour
   Other ICU medications:
   Hep sc, Insulin gtt
   Other medications:
   Synthroid, abilify
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-12-21**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.2
C (99
   HR: 105 (104 - 122) bpm
   BP: 111/74(81) {92/48(59) - 111/74(81)} mmHg
   RR: 19 (12 - 23) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,517 mL
                                                                  3,944 mL
   PO:
             TF:
   IVF:
                                                                  2,517 mL
                                                                  3,944 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                      0 mL
   Urine:
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,017 mL
                                                                  3,944 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///13/
   Physical Examination
   General Appearance: Obese F unable to speak secondary to throat pain
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, tender diffuse cervical
   adenopathy, swollen uvula
   Cardiovascular: (S1: Normal), (S2: Normal), RRR
   Respiratory / Chest: (Breath Sounds: Crackles in R mid lung field )
   Abdominal: Soft, Non-tender, Bowel sounds present, Not Distended
   Skin:  No rashes
   Neurologic: Attentive, A&Ox3, moving all extremities
   Labs / Radiology
   11.0 g/dL
   234 K/uL
   143 mg/dL
   0.7 mg/dL
   13 mEq/L
   3.6 mEq/L
   11 mg/dL
   112 mEq/L
   142 mEq/L
   33.0 %
   8.4 K/uL
        [image002.jpg]
                            [**2183-12-20**]  05:11 PM
                            [**2183-12-20**]  10:01 PM
                            [**2183-12-21**]  03:19 AM
   WBC
   13.3
   8.4
   Hct
   34.3
   33.0
   Plt
   234
   234
   Cr
   0.9
   0.8
   0.7
   Glucose
   [**Telephone/Fax (3) 10848**]
   Other labs: Ca++:7.2 mg/dL, Mg++:2.4 mg/dL, PO4:1.7 mg/dL
   CXR
 RML infiltrate, ?tracheal narrowing
   Assessment and Plan
 DIABETIC KETOACIDOSIS (DKA):  Secondary to viral illness vs PNA.
   Agree with aggressive IVF resusitation, insulin drip, serial
   electrolytes and replete as needed.
   - IVF w/glucose and potassium
   - Replete lytes
   - Insulin gtt at 3.5 pending gap closure, restart home insulin
   w/overlap after gap closed
   - Notify [**Last Name (un) 276**]
 Sore Throat, cough:  Ruled out for flu by ED.  Has sifAfter volume
   repletion has RML infiltrate, ?PNA. ?upper airway narrowing on CXR
   - Supplemental O2 as needed
   - Levofloxacin for CAP
   - Strep swab
   - ENT eval
 HYPOTHYROIDISM:  Synthroid when taking po's.
   # Psych
 On home abilify, not taking secondary to throat pain
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Insulin gtt
   Lines:
   20 Gauge - [**2183-12-20**] 05:05 PM
   22 Gauge - [**2183-12-20**] 09:30 PM
   Prophylaxis:
   DVT: hep sc
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Discussed with Mother
   [**Name (NI) 66**] status: Full code
   Disposition : ICU pending gap closure
   Total time spent: 30 min

2183-12-22 08:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2183-12-21**] 09:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-12-22**] 08:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.7
C (98.1
   HR: 86 (86 - 105) bpm
   BP: 129/107(112) {105/65(74) - 129/107(112)} mmHg
   RR: 14 (13 - 40) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  6,278 mL
                                                                  1,199 mL
   PO:
                                                                    280 mL
             TF:
   IVF:
                                                                  5,998 mL
                                                                  1,199 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                    500 mL
   Urine:
                                                                  1,350 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,928 mL
                                                                    699 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///18/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   196 K/uL
   11.0 g/dL
   129 mg/dL
   0.5 mg/dL
   18 mEq/L
   3.5 mEq/L
   6 mg/dL
   116 mEq/L
   142 mEq/L
   33.5 %
   8.5 K/uL
        [image002.jpg]
                            [**2183-12-20**]  05:11 PM
                            [**2183-12-20**]  10:01 PM
                            [**2183-12-21**]  03:19 AM
                            [**2183-12-21**]  09:16 AM
                            [**2183-12-21**]  02:17 PM
                            [**2183-12-21**]  09:16 PM
                            [**2183-12-22**]  01:58 AM
   WBC
   13.3
   8.4
   8.5
   Hct
   34.3
   33.0
   33.5
   Plt
   [**Telephone/Fax (3) 10861**]
   Cr
   0.9
   0.8
   0.7
   0.7
   0.6
   0.6
   0.5
   Glucose
   [**Telephone/Fax (3) 10862**]27
   65
   320
   129
   Other labs: Ca++:7.4 mg/dL, Mg++:2.2 mg/dL, PO4:1.4 mg/dL
   Assessment and Plan
   23 yof with type 1 diabetes who presents with DKA likely [**3-10**] Pneumonia,
   Laryngitis.
   # Right middle lobe infiltrate: Concerning for community acquired
   pnemonia.
   - Levofloxacin 750mg po daily (day 2 of 5)
   - f/u cultures
   # Pharyngitis/Laryngitis: ENT consulted yesterday and laryngoscopy
   showed +exudates.  Started on Levaquin yesterday
   - f/u strep throat swab
   - cont Levaquin
   #  DKA: Precipitants likely pnemonia and pharyngitis. Influenza
   negative.  Glucose in ED 481, with anion gap of 35.  Gap closed
   yesterday and patient was transitioned to Insulin SQ but then developed
   AG of 18 overnight, placed back on insulin gtt now, off since 3am.
   Will recheck chem. 7 now.
   - recheck chem. 7, if anion gap remains closed then will cont to
   monitor into afternoon and likely call out to floor in PM
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 276**] recs
   - QID FSBG, HISS, Glargine 50u [**Last Name (NamePattern4) **]
   - Lytes [**Hospital1 **] for now
   # Hypothroidism: Continue synthroid per outpatient regimen.
   # Depression: Continue abilify 25mg po [**Last Name (LF) **], [**First Name3 (LF) **] outpatient regimen.
   .
   # FEN: IVFs / replete lytes prn / Liquid Diet
   # PPX:  heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE:  FULL
   # CONTACT:
   # DISPO: ICU

2183-12-22 08:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2183-12-21**] 09:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-12-22**] 08:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.7
C (98.1
   HR: 86 (86 - 105) bpm
   BP: 129/107(112) {105/65(74) - 129/107(112)} mmHg
   RR: 14 (13 - 40) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  6,278 mL
                                                                  1,199 mL
   PO:
                                                                    280 mL
             TF:
   IVF:
                                                                  5,998 mL
                                                                  1,199 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                    500 mL
   Urine:
                                                                  1,350 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,928 mL
                                                                    699 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///18/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   196 K/uL
   11.0 g/dL
   129 mg/dL
   0.5 mg/dL
   18 mEq/L
   3.5 mEq/L
   6 mg/dL
   116 mEq/L
   142 mEq/L
   33.5 %
   8.5 K/uL
        [image002.jpg]
                            [**2183-12-20**]  05:11 PM
                            [**2183-12-20**]  10:01 PM
                            [**2183-12-21**]  03:19 AM
                            [**2183-12-21**]  09:16 AM
                            [**2183-12-21**]  02:17 PM
                            [**2183-12-21**]  09:16 PM
                            [**2183-12-22**]  01:58 AM
   WBC
   13.3
   8.4
   8.5
   Hct
   34.3
   33.0
   33.5
   Plt
   [**Telephone/Fax (3) 10861**]
   Cr
   0.9
   0.8
   0.7
   0.7
   0.6
   0.6
   0.5
   Glucose
   [**Telephone/Fax (3) 10862**]27
   65
   320
   129
   Other labs: Ca++:7.4 mg/dL, Mg++:2.2 mg/dL, PO4:1.4 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPOXEMIA
 DIABETIC KETOACIDOSIS (DKA)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2183-12-20**] 05:05 PM
   22 Gauge - [**2183-12-20**] 09:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2183-12-22 08:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2183-12-21**] 09:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-12-22**] 08:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.7
C (98.1
   HR: 86 (86 - 105) bpm
   BP: 129/107(112) {105/65(74) - 129/107(112)} mmHg
   RR: 14 (13 - 40) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  6,278 mL
                                                                  1,199 mL
   PO:
                                                                    280 mL
             TF:
   IVF:
                                                                  5,998 mL
                                                                  1,199 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                    500 mL
   Urine:
                                                                  1,350 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,928 mL
                                                                    699 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///18/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   196 K/uL
   11.0 g/dL
   129 mg/dL
   0.5 mg/dL
   18 mEq/L
   3.5 mEq/L
   6 mg/dL
   116 mEq/L
   142 mEq/L
   33.5 %
   8.5 K/uL
        [image002.jpg]
                            [**2183-12-20**]  05:11 PM
                            [**2183-12-20**]  10:01 PM
                            [**2183-12-21**]  03:19 AM
                            [**2183-12-21**]  09:16 AM
                            [**2183-12-21**]  02:17 PM
                            [**2183-12-21**]  09:16 PM
                            [**2183-12-22**]  01:58 AM
   WBC
   13.3
   8.4
   8.5
   Hct
   34.3
   33.0
   33.5
   Plt
   [**Telephone/Fax (3) 10861**]
   Cr
   0.9
   0.8
   0.7
   0.7
   0.6
   0.6
   0.5
   Glucose
   [**Telephone/Fax (3) 10862**]27
   65
   320
   129
   Other labs: Ca++:7.4 mg/dL, Mg++:2.2 mg/dL, PO4:1.4 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPOXEMIA
 DIABETIC KETOACIDOSIS (DKA)
   23 yo F with type 1 diabetes who presents with DKA.
   # Right middle lobe infiltrate: Concerning for community acquired
   pnemonia.
   -Levofloxacin 750mg po daily (day 1 of 5)
   # Pharyngitis: Worsened overnight. Patient not taking pos secondary to
   pain. Unable to speak. No stridor. Lungs sound clear. No exudates.
   -send strep throat swab
   -consult ENT
   #  DKA: Precipitants likely pnemonia and pharyngitis. Influenza
   negative.  Glucose in ED 481, with anion gap of 35-
 17.
   -d/c tamiflu
   -f/u cultures
   -IV D5NS with 20mEq K + @ 500cc/hr until AG closes
   -insulin gtt @ 4u/hr until sugars in 200-300 range and AG closes.
   -once sugar 200-250 and AG closes, will switch to lantus 60u [**Telephone/Fax (3) **] with
   sliding scale insulin
   -chem 10 q4 hours
   -[**Last Name (un) 276**] consult this  AM
   .
   # Hypothroidism: Continue synthroid per outpatient regimen.
   .
   # Depression: Continue abilify 25mg po [**Last Name (LF) **], [**First Name3 (LF) **] outpatient regimen.
   .
   # FEN: IVFs / replete lytes prn / NPO
   # PPX:  heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE:  FULL
   # CONTACT:
   # DISPO: ICU
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2183-12-20**] 05:05 PM
   22 Gauge - [**2183-12-20**] 09:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2183-12-22 10:36:00 Physician Attending Progress Note
Chief Complaint: DKA, throat soreness
   HPI:
   24 Hour Events:
   - Restarted on insulin gtt for widening gap
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-12-22**] 10:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.4
C (99.3
   HR: 86 (85 - 104) bpm
   BP: 122/88(95) {105/66(74) - 132/107(112)} mmHg
   RR: 19 (13 - 40) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  6,278 mL
                                                                  1,382 mL
   PO:
                                                                    280 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  5,998 mL
                                                                  1,322 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                    500 mL
   Urine:
                                                                  1,350 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,928 mL
                                                                    882 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///18/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: LLL crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   11.0 g/dL
   196 K/uL
   129 mg/dL
   0.5 mg/dL
   18 mEq/L
   3.5 mEq/L
   6 mg/dL
   116 mEq/L
   142 mEq/L
   33.5 %
   8.5 K/uL
        [image002.jpg]
                            [**2183-12-20**]  05:11 PM
                            [**2183-12-20**]  10:01 PM
                            [**2183-12-21**]  03:19 AM
                            [**2183-12-21**]  09:16 AM
                            [**2183-12-21**]  02:17 PM
                            [**2183-12-21**]  09:16 PM
                            [**2183-12-22**]  01:58 AM
   WBC
   13.3
   8.4
   8.5
   Hct
   34.3
   33.0
   33.5
   Plt
   [**Telephone/Fax (3) 10861**]
   Cr
   0.9
   0.8
   0.7
   0.7
   0.6
   0.6
   0.5
   Glucose
   [**Telephone/Fax (3) 10862**]27
   65
   320
   129
   Other labs: Ca++:7.4 mg/dL, Mg++:2.2 mg/dL, PO4:1.4 mg/dL
   Imaging: CXR - RML infiltrate [**12-21**].
   Microbiology: No new micro.
   Assessment and Plan
   23 y/o female with h/o DM type and hypothyroidism who presented in DKA
   after several days of a sore throat and dry cough.  Initial gap ~40,
   now closed and getting transitioned to insulin [**First Name8 (NamePattern2) **] [**Last Name (un) 276**].
   # DKA:  Secondary to viral illness vs PNA, laryngitis
   - Replete lytes
   - Follow glucoses now that transitioned off gtt
   - RISS - unable to take POs reliably as below
   - [**Last Name (un) 276**] following
   # Laryngitis:  Flu swab negative, but has RML infiltrate on CXR after
   getting hydrated.  S/p ENT evaluation - diffuse swelling and erythema,
   no airway compromise.
   - F/U strep swap, cultures, urine legionella
   - Supplemental O2 as needed
   - Levofloxacin for CAP
   - Repeat CXR given disconnect between RML infiltrates and LLL crackles
    # Hypothryoidism:  On Synthroid.
   # Psych: On Abilify.
   ICU Care
   Nutrition: CLD
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2183-12-20**] 05:05 PM
   22 Gauge - [**2183-12-20**] 09:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : Possible call out later if dexis stable
   Total time spent:  30 minutes

2183-12-22 10:36:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-12-22**] 10:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.4
C (99.3
   HR: 86 (85 - 104) bpm
   BP: 122/88(95) {105/66(74) - 132/107(112)} mmHg
   RR: 19 (13 - 40) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  6,278 mL
                                                                  1,382 mL
   PO:
                                                                    280 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  5,998 mL
                                                                  1,322 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                    500 mL
   Urine:
                                                                  1,350 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,928 mL
                                                                    882 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///18/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: LLL crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   11.0 g/dL
   196 K/uL
   129 mg/dL
   0.5 mg/dL
   18 mEq/L
   3.5 mEq/L
   6 mg/dL
   116 mEq/L
   142 mEq/L
   33.5 %
   8.5 K/uL
        [image002.jpg]
                            [**2183-12-20**]  05:11 PM
                            [**2183-12-20**]  10:01 PM
                            [**2183-12-21**]  03:19 AM
                            [**2183-12-21**]  09:16 AM
                            [**2183-12-21**]  02:17 PM
                            [**2183-12-21**]  09:16 PM
                            [**2183-12-22**]  01:58 AM
   WBC
   13.3
   8.4
   8.5
   Hct
   34.3
   33.0
   33.5
   Plt
   [**Telephone/Fax (3) 10861**]
   Cr
   0.9
   0.8
   0.7
   0.7
   0.6
   0.6
   0.5
   Glucose
   [**Telephone/Fax (3) 10862**]27
   65
   320
   129
   Other labs: Ca++:7.4 mg/dL, Mg++:2.2 mg/dL, PO4:1.4 mg/dL
   Imaging: CXR - RML infiltrate [**12-21**].
   Microbiology: No new micro.
   Assessment and Plan
   23 y/o female with h/o DM type and hypothyroidism who presented in DKA
   after several days of a sore throat and dry cough.  Initial gap ~40,
   now closed and getting transitioned to insulin [**First Name8 (NamePattern2) **] [**Last Name (un) 276**].
   # DKA:  Secondary to viral illness vs PNA.
   - Replete lytes
   - Follow glucoses now that transitioned off gtt
   - RISS - unable to take POs reliably as below
   - [**Last Name (un) 276**] following
   # Laryngitis:  Flu swab negative, but has RML infiltrate on CXR after
   getting hydrated.  S/p ENT evaluation - diffuse swelling and erythema,
   no airway compromise.
   - F/U strep swap, cultures, urine legionella
   - Supplemental O2 as needed
   - Levofloxacin for CAP
    # Hypothryoidism:  On Synthroid.
   # Psych: On Abilify.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2183-12-20**] 05:05 PM
   22 Gauge - [**2183-12-20**] 09:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : Possible call out later if dexis stable
   Total time spent:  20 minutes

2183-12-22 10:36:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   - Restarted on insulin gtt for widening gap
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-12-22**] 10:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.4
C (99.3
   HR: 86 (85 - 104) bpm
   BP: 122/88(95) {105/66(74) - 132/107(112)} mmHg
   RR: 19 (13 - 40) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  6,278 mL
                                                                  1,382 mL
   PO:
                                                                    280 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  5,998 mL
                                                                  1,322 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                    500 mL
   Urine:
                                                                  1,350 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,928 mL
                                                                    882 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///18/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: LLL crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   11.0 g/dL
   196 K/uL
   129 mg/dL
   0.5 mg/dL
   18 mEq/L
   3.5 mEq/L
   6 mg/dL
   116 mEq/L
   142 mEq/L
   33.5 %
   8.5 K/uL
        [image002.jpg]
                            [**2183-12-20**]  05:11 PM
                            [**2183-12-20**]  10:01 PM
                            [**2183-12-21**]  03:19 AM
                            [**2183-12-21**]  09:16 AM
                            [**2183-12-21**]  02:17 PM
                            [**2183-12-21**]  09:16 PM
                            [**2183-12-22**]  01:58 AM
   WBC
   13.3
   8.4
   8.5
   Hct
   34.3
   33.0
   33.5
   Plt
   [**Telephone/Fax (3) 10861**]
   Cr
   0.9
   0.8
   0.7
   0.7
   0.6
   0.6
   0.5
   Glucose
   [**Telephone/Fax (3) 10862**]27
   65
   320
   129
   Other labs: Ca++:7.4 mg/dL, Mg++:2.2 mg/dL, PO4:1.4 mg/dL
   Imaging: CXR - RML infiltrate [**12-21**].
   Microbiology: No new micro.
   Assessment and Plan
   23 y/o female with h/o DM type and hypothyroidism who presented in DKA
   after several days of a sore throat and dry cough.  Initial gap ~40,
   now closed and getting transitioned to insulin [**First Name8 (NamePattern2) **] [**Last Name (un) 276**].
   # DKA:  Secondary to viral illness vs PNA.
   - Replete lytes
   - Follow glucoses now that transitioned off gtt
   - RISS - unable to take POs reliably as below
   - [**Last Name (un) 276**] following
   # Laryngitis:  Flu swab negative, but has RML infiltrate on CXR after
   getting hydrated.  S/p ENT evaluation - diffuse swelling and erythema,
   no airway compromise.
   - F/U strep swap, cultures, urine legionella
   - Supplemental O2 as needed
   - Levofloxacin for CAP
   - Repeat CXR given disconnect between RML infiltrates and LLL crackles
    # Hypothryoidism:  On Synthroid.
   # Psych: On Abilify.
   ICU Care
   Nutrition: CLD
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2183-12-20**] 05:05 PM
   22 Gauge - [**2183-12-20**] 09:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : Possible call out later if dexis stable
   Total time spent:  20 minutes

2183-12-22 10:36:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-12-22**] 10:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.4
C (99.3
   HR: 86 (85 - 104) bpm
   BP: 122/88(95) {105/66(74) - 132/107(112)} mmHg
   RR: 19 (13 - 40) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  6,278 mL
                                                                  1,382 mL
   PO:
                                                                    280 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  5,998 mL
                                                                  1,322 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                    500 mL
   Urine:
                                                                  1,350 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,928 mL
                                                                    882 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///18/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   11.0 g/dL
   196 K/uL
   129 mg/dL
   0.5 mg/dL
   18 mEq/L
   3.5 mEq/L
   6 mg/dL
   116 mEq/L
   142 mEq/L
   33.5 %
   8.5 K/uL
        [image002.jpg]
                            [**2183-12-20**]  05:11 PM
                            [**2183-12-20**]  10:01 PM
                            [**2183-12-21**]  03:19 AM
                            [**2183-12-21**]  09:16 AM
                            [**2183-12-21**]  02:17 PM
                            [**2183-12-21**]  09:16 PM
                            [**2183-12-22**]  01:58 AM
   WBC
   13.3
   8.4
   8.5
   Hct
   34.3
   33.0
   33.5
   Plt
   [**Telephone/Fax (3) 10861**]
   Cr
   0.9
   0.8
   0.7
   0.7
   0.6
   0.6
   0.5
   Glucose
   [**Telephone/Fax (3) 10862**]27
   65
   320
   129
   Other labs: Ca++:7.4 mg/dL, Mg++:2.2 mg/dL, PO4:1.4 mg/dL
   Imaging: CXR - RML infiltrate [**12-21**].
   Microbiology: No new micro.
   Assessment and Plan
   23 y/o femail with h/o DM type and hypothyroidism who presented in DKA
   after several days of a sore throat and dry cough.  Initial gap ~40,
   now closed and getting transitioned to insulin [**First Name8 (NamePattern2) **] [**Last Name (un) 276**].
   # DKA:  Secondary to viral illness vs PNA.  Agree with aggressive IVF
   resusitation, insulin drip, serial electrolytes and replete as needed.
   - IVF w/glucose and potassium.  Unable to take POs reliably as below.
   - Replete lytes
   - Follow glucoses now that transitioned off gtt
   - [**Last Name (un) 276**] following
   # Laryngitis:  Flu swab negative, but has RML infiltrate on CXR after
   getting hydrated.  S/p ENT evaluation - diffuse swelling and erythema,
   no airway compromise.
   - F/U strep swap, cultures, urine legionella
   - Supplemental O2 as needed
   - Levofloxacin for CAP
    # Hypothryoidism:  On Synthroid.
   # Psych: On Abilify.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2183-12-20**] 05:05 PM
   22 Gauge - [**2183-12-20**] 09:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: